US06787652B1
({[4-(3-Bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-hydrazono}-cyano-acetyl)-carbamic acid ethyl ester
To a suspension of 4-(3-bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenylamine (2.0 g) of PREPARATION 2 in 6N hydrochloric acid (45 ml) at 0° C. was added dropwise a solution of sodium nitrite (560 mg) in water (1.25 ml). After stirring 30 min at 0° C., this solution was added in portions to a mixture of ethylcyanoacetylurethane (2.4 g) and pyridine (12 ml) in water (150 ml) at room temperature. The resulting solids were collected, washed with water, and dried to afford the title compound as an orange solid (1.5 g) which was used directly.

reactant | 4-(3-bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenylamine | 2.0 g | BrC=1C=C(OC2=C(C=C(C=C2C)N)C)C=CC1OC | C15H16BrNO2
reactant | sodium nitrite | 560 mg | N(=O)[O-].[Na+]
reactant | ethylcyanoacetylurethane | 2.4 g | C(C)N(C(=O)OCC)C(CC#N)=O | C8H12N2O3
reactant | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 6N, 45 ml | Cl | ClH
solvent | water | 1.25 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | ({[4-(3-Bromo-4-methoxy-phenoxy)-3,5-dimethyl-phenyl]-hydrazono}-cyano-acetyl)-carbamic acid ethyl ester | 1.5 g | C(C)OC(NC(C(C#N)=NNC1=CC(=C(C(=C1)C)OC1=CC(=C(C=C1)OC)Br)C)=O)=O | C21H21BrN4O5
